US03931177
Hydrazine hydrate (4.5 ml, 0.09 mole) was added to a stirred solution of methyl 3-(4-allyl-3-hydroxybenzoyl)propionate (5.6 g, 0.023 mole) in glacial acetic acid (60 ml) and the mixture heated under reflux for one hour. Evaporation under reduced pressure gave a residue which was triturated with water to give 6-(4-allyl-3-hydroxyphenyl)-4,5-dihydro-3(2H)-pyridazinone (5 g, m.p. 175°-178°C, 96%). The pure pyridazinone, recrystallised from ethanol had m.p. 178°-180°C.

reactant | Hydrazine hydrate | 0.09 mole, 4.5 ml | O.NN
reactant | methyl 3-(4-allyl-3-hydroxybenzoyl)propionate | 0.023 mole, 5.6 g | C(C=C)C1=C(C=C(C(=O)CCC(=O)OC)C=C1)O | C14H16O4
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
product | 6-(4-allyl-3-hydroxyphenyl)-4,5-dihydro-3(2H)-pyridazinone | 5 g, 96% | C(C=C)C1=C(C=C(C=C1)C=1CCC(NN1)=O)O | C13H14N2O2
